US06215002B1
4-Piperidin-1-yl-butyric acid benzyl ester
4-Bromobutyrichloride (6 g) was dissolved in dichloromethane (30 ml), and cooled to 0° C. under nitrogen. A solution containing benzyl alcohol (3.4 ml) and triethylamine (4.5 ml) in dichloromethane (35 ml) was added dropwise over 30 min. The mixture was stirred under nitrogen for 2 h. T.l.c. (10:1 hexane:ether) showed the complete disappearance of benzyl alcohol, and the formation of a less polar product. Piperidine (3.2 ml) was added and the resulting mixture heated under reflux for 18 h. The cooled mixture was partitioned between 2M hydrochloric acid (250 ml) and ether (250 ml). The aqueous layer was separated, basified with solid potassium carbonate until pH≧10, extracted with ether (2×250 ml), dried (MgSO4), and the solvent evaporated in vacuo to leave an orange oil. T.l.c. SiO2, ether:triethylamine (100:1), Rf=0.34 detection, u.v., IPA.

reactant | 4-Bromobutyrichloride | 6 g | [Cl-].BrCCC#C
reactant | benzyl alcohol | 3.4 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
reactant | Piperidine | 3.2 ml | N1CCCCC1 | C5H11N
reactant | IPA | CC(C)O | C3H8O
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | ether triethylamine | CCOCC.C(C)N(CC)CC
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 4-Piperidin-1-yl-butyric acid benzyl ester | C(C1=CC=CC=C1)OC(CCCN1CCCCC1)=O | C16H23NO2
